US09326987B2
N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-methyl-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide
6-Bromo-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-methyl-1H-indazole (45 mg, 0.111 mmol), N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide (36.4 mg, 0.111 mmol), sodium carbonate (35.2 mg, 0.332 mmol) and 1,1-bis(diphenylphosphino)ferrocene palladium dichloride (8.10 mg, 0.011 mmol) were added to a microwave vial and dissolved in 1,4-dioxane (0.5 ml) and water (0.5 ml). The reaction mixture was heated under microwave irradiation at 110° C. for 15 mins. The reaction mixture was passed through a 2 g silica cartridge that was then washed with methanol. The solvent was evaporated under a stream of nitrogen and the residual solid was purified by Mass Directed Automated Preparative HPLC (Method B) and the solvent was evaporated under a stream of nitrogen to give the title compound as a white solid (10 mg).

reactant | 6-Bromo-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-methyl-1H-indazole | 0.111 mmol, 45 mg | BrC1=CC(=C2C=NN(C2=C1)C)C=1OC(=NN1)CN1C[C@H](O[C@H](C1)C)C | C17H20BrN5O2
reactant | N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide | 0.111 mmol, 36.4 mg | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
reactant | sodium carbonate | 0.332 mmol, 35.2 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
product | N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-methyl-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide | 10 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C)C | C24H29N7O5S
